US06489344B1
1 mmol of 2,4-dichlorophenyl chloride in DMF was added drop wise to 1. mmol of tert-butyl piperazinecarboxylate and 1.2 mmol Cs2CO3 in DMF at room temperature for fourteen hours. The reaction mixture was concentrated in vacuo and diluted with water and ethyl acetate. The solution was extracted three times with ethyl acetate, dried over sodium sulfate, and purified by column chromatography eluting with 50% ethylacetate and 50% hexane to obtain tert-butyl 4-[2-(2,4-dichlorophenyl)-2-oxoethyl]piperazinecarboxylate.

reactant | 2,4-dichlorophenyl chloride | 1 mmol | ClC1=C(C=CC(=C1)Cl)Cl | C6H3Cl3
reactant | tert-butyl piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | Cs2CO3 | 1.2 mmol | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | CN(C)C=O | C3H7NO
product | tert-butyl 4-[2-(2,4-dichlorophenyl)-2-oxoethyl]piperazinecarboxylate | ClC1=C(C=CC(=C1)Cl)C(CN1CCN(CC1)C(=O)OC(C)(C)C)=O | C17H22Cl2N2O3
